US04444770
0.03 mole of 2-methyl-6-phenylimidazo[2,1-b]-1,3,4-thiadiazol-5-carbaldehyde, 0.1 mole (13.0 g) of acetoacetic acid dimethylamide and 0.6 ml of piperidine were heated to 120° C. for 4 hours. The mixture was then cooled and the precipitate formed was recrystallised from 30 ml of ethyl acetate. After drying, α-acetyl-β-(2-methyl-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazol-5-yl)-propenoic acid dimethylamide of melting point 185° to 187° C. was obtained.

reactant | 2-methyl-6-phenylimidazo[2,1-b]-1,3,4-thiadiazol-5-carbaldehyde | 0.03 mole | CC1=NN2C(S1)=NC(=C2C=O)C2=CC=CC=C2 | C12H9N3OS
reactant | acetoacetic acid dimethylamide | 0.1 mole, 13.0 g | CN(C(CC(=O)C)=O)C | C6H11NO2
reactant | piperidine | 0.6 ml | N1CCCCC1 | C5H11N
product | α-acetyl-β-(2-methyl-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazol-5-yl)-propenoic acid dimethylamide | CN(C(C(=CC1=C(N=C2SC(=NN21)C)C2=CC=CC=C2)C(C)=O)=O)C | C18H18N4O2S
